US04247482
Using the apparatus of Example 1, a solution of 2.43 moles of sodio-2-N,N-diethylaminoethoxide in 4.57 moles of N,N-diethylethanolamine at about 50° C. was added to he reactor. To this mixture was added 514 grams of Diluent II. The resulting mixture was cooled to 25° C. with stirring and then circulated through the scrubber. A vapor mixture of sulfur trioxide and nitrogen, produced by sparging nitrogen gas through liquid sulfur trioxide at a rate of about 148 cubic centimeters per minute, was passed into the gas inlet tube of the reactor over a period of about 2 hours and 10 minutes until 1.01 moles of sulfur trioxide has been added to the reactor, while the stirred mixture in the reactor was maintained at about 24° C. Upon completion of the addition of sulfur trioxide to the reactor, the mixture was stirred for one hour and then heated to a reflux temperature of 110° C. The mixture was refluxed with stirring for 11 hours, and then it was cooled and filtered through a kiesel-guhr-coated filter. The filtrate was distilled through a 35-tray Oldershaw column to give 0.39 moles of bis[2-(N,N-diethylamino)ethyl]ether as a fraction boiling at 120° C. at 15 mm. The yield of bis[2-(N,N-diethylamino)ethyl]ether was 39 percent, based on sulfur trioxide employed.

reactant | N,N-diethylethanolamine | 4.57 moles | C(C)N(CCO)CC | C6H15NO
reactant | sulfur trioxide | S(=O)(=O)=O | O3S
reactant | sulfur trioxide | 1.01 moles | S(=O)(=O)=O | O3S
product | bis[2-(N,N-diethylamino)ethyl]ether | 0.39 moles | C(C)N(CC)CCOCCN(CC)CC | C12H28N2O
